US04125622
2.7 g of 6-hydroxy-3-hydroxycarbonyl-6-methyl-4-thiaundecanoic acid methyl ester and 1.25 g of SOCl2 are stirred for 2 hours in 40 ml of chloroform at room temperature. The mixture is boiled briefly. After cooling, 0.5 ml of piperidine, dissolved in 20 ml of chloroform is added thereto. The resultant mixture is further stirred for 1 hour at 30°. After the usual working up, 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid is obtained.

reactant | 6-hydroxy-3-hydroxycarbonyl-6-methyl-4-thiaundecanoic acid methyl ester | 2.7 g | COC(CC(SCC(CCCCC)(C)O)C(=O)O)=O | C13H24O5S
reactant | SOCl2 | 1.25 g | O=S(Cl)Cl | Cl2OS
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid | C(CCCC)C1(CSC(C(O1)=O)CC(=O)O)C | C12H20O4S
